US06982348B2
7) (1RS,2SR)-2-amino-1-[4-(benzyloxy)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol
To a solution of (4RS,5SR)-5-[4-(benzyloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (2.50 g, 5.26 mmol) in ethanol (30 ml) was added 8N aqueous sodium hydroxide solution (2 ml, 16 mmol), and the mixture was heated under reflux for 5 hrs. The reaction solution was concentrated and diluted with water (100 ml). The mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (2.4 g, 100%)

reactant | (4RS,5SR)-5-[4-(benzyloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 5.26 mmol, 2.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C25H21F4NO4
reactant | sodium hydroxide | 16 mmol, 8N, 2 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-[4-(benzyloxy)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | NC(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H23F4NO3
